US20010036946A1
3,4-dihydro-2,2-dioxido-3-(4-piperidinyl)-2,1,3-benzothiadiazin
Prepared analogously to Example A3f) from 3,4-dihydro-2,2-dioxido-3-[1-(phenylmethyl)-4-piperidinyl]-2,1,3-benzothiadiazine by catalytic hydrogenation in the presence of palladium/charcoal in a quantitative yield. Colourless, amorphous substance. IR(KBr) 1263.3, 1105.1 cm−1 (SO2)

reactant | 3,4-dihydro-2,2-dioxido-3-[1-(phenylmethyl)-4-piperidinyl]-2,1,3-benzothiadiazine | O=S1(NC2=C(CN1C1CCN(CC1)CC1=CC=CC=C1)C=CC=C2)=O | C19H23N3O2S
catalyst | palladium/charcoal | [Pd] | Pd
product | 3,4-dihydro-2,2-dioxido-3-(4-piperidinyl)-2,1,3-benzothiadiazin | O=S1(NC2=C(CN1C1CCNCC1)C=CC=C2)=O | C12H17N3O2S
